US07384930B2
(R)-N-(8-Benzyl-7-oxo-1,5,6,7,8,9-hexahydroazepino[4,3-f]indazol-6-yl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide.
(R)-Benzyl 1-acetyl-8-benzyl-7-oxo-1,5,6,7,8,9-hexahydroazepino[4,3-f]indazol-6-ylcarbamate (52 mg, 0.11 mmol) was dissolved in a mixture of methanol (7 mL) and acetic acid (100 μL). A catalytic amount of 10% palladium on carbon was added to the mixture. Reaction was placed on a Parr apparatus under 60 psi of hydrogen gas. Reaction shook at room temperature for 2 hours. Mixture was filtered. Filtrate was concentrated. Residue was dissolved in dichloromethane (5 mL). Aqueous sodium bicarbonate (5 mL) was added to the mixture. 20% Phosgene in toluene (62 μL, 0.12 mmol) was added to the mixture with vigorous stirring. Reaction was stirred vigorously at room temperature for 20 minutes. 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)piperidinium acetate was added to the mixture. Reaction stirred at room temperature for 1 hour. Layers were partitioned. Organics were washed twice with 1N hydrochloric acid and once with brine. Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Residue was dissolved in methanol (5 mL). Potassium carbonate (20 mg, 0.14 mmol) was added to the mixture. Reaction stirred at room temperature for 1 hour. Reaction was quenched with trifluoroacetic acid. Mixture was purified by prep HPLC. Title compound was obtained as a white solid in 11% yield. MS m/e (M+H)+=564.3. Rf=1.89 min.

reactant | (R)-Benzyl 1-acetyl-8-benzyl-7-oxo-1,5,6,7,8,9-hexahydroazepino[4,3-f]indazol-6-ylcarbamate | 0.11 mmol, 52 mg | C(C)(=O)N1N=CC2=CC3=C(C=C12)CN(C([C@@H](C3)NC(OCC3=CC=CC=C3)=O)=O)CC3=CC=CC=C3 | C28H26N4O4
reactant | hydrogen | [H][H] | H2
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.12 mmol, 62 μL | C1(=CC=CC=C1)C | C7H8
reactant | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)piperidinium acetate | C(C)(=O)[O-].O=C1NC2=CC=CC=C2CN1C1CC[NH2+]CC1
reactant | Potassium carbonate | 0.14 mmol, 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 7 mL | CO | CH4O
solvent | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | (R)-N-(8-Benzyl-7-oxo-1,5,6,7,8,9-hexahydroazepino[4,3-f]indazol-6-yl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 11% yield | C(C1=CC=CC=C1)N1CC2=C(C=C3C=NNC3=C2)C[C@H](C1=O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C32H33N7O3
